US04523030
In a manner analogous to that described in Example 5, starting from 37.12 g of aluminium trichloride, 13.42 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester and 26.05 g of o-methylthiobenzoyl chloride there is obtained 4-(o-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester in the form of a viscous yellow oil.

reactant | aluminium trichloride | 37.12 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 13.42 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | o-methylthiobenzoyl chloride | 26.05 g | CC1=C(C(=S)Cl)C=CC=C1 | C8H7ClS
product | 4-(o-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=C(C=CC=C2)C)=S)O | C18H14O3S
